* c:\users\mamat\esim-workspace\2n3055_npn_bjt_amplifier\2n3055_npn_bjt_amplifier.cir

.include 2N3055.lib
* u1  in plot_v1
* u2  out plot_v1
v2  in gnd sine(0 10m 1k 0 0)
q1 net-_c3-pad1_ net-_c1-pad1_ net-_c2-pad1_ 2N3055
v1 net-_r2-pad2_ gnd  dc 12
r5  net-_c3-pad1_ net-_r2-pad2_ 2k
r4  gnd net-_c2-pad1_ 1.5k
r2  net-_c1-pad1_ net-_r2-pad2_ 200k
r3  gnd net-_c1-pad1_ 50k
r1  in net-_c1-pad2_ 50
c2  net-_c2-pad1_ gnd 100u
c3  net-_c3-pad1_ out 40u
c1  net-_c1-pad1_ net-_c1-pad2_ 40u
r6  out gnd 1k
.tran 10e-06 10e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth = 2
plot v(in) v(out)
.endc
.end
