* c:\users\mamat\onedrive\documents\final_project_files\device_modelling\2n5401\bjt_cb_config_output_cha_2n5401\bjt_cb_config_output_cha_2n5401.cir

.include 2N5401.lib
v1 gnd vcb  dc 12
r1  net-_r1-pad1_ net-_q1-pad1_ 1k
r2  net-_q1-pad3_ ie 1k
* u_ic1  net-_r1-pad1_ vcb plot_i2
i1 ie gnd  dc 20m
q1 net-_q1-pad1_ gnd net-_q1-pad3_ 2N5401
v_u_ic1 net-_r1-pad1_ vcb 0
.dc v1 0e-00 20e-00 0.002e-00 i1 -5e-03 0e-03 1e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth = 2
plot i(v_u_ic1)
.endc
.end
