* c:\users\mamat\esim-workspace\bjt_cb_config_ztx1048a\bjt_cb_config_ztx1048a.cir

.include 2N3055.lib
v1 vcb gnd  dc 12
r1  net-_r1-pad1_ net-_q1-pad1_ 1k
r2  net-_q1-pad3_ ie 1k
* u_ic1  vcb net-_r1-pad1_ plot_i2
i1 ie gnd  dc 20m
q1 net-_q1-pad1_ gnd net-_q1-pad3_ 2N3055
v_u_ic1 vcb net-_r1-pad1_ 0
.dc v1 -1e-00 10e-00 0.02e-00 i1 -1e-03 10e-03 1e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth = 2
plot i(v_u_ic1)
.endc
.end
