* c:\users\mamat\onedrive\desktop\ajay_esim\final_project_files\device_modelling\2n5401\bjt_ce_config\bjt_ce_config.cir

.include 2N5401.lib
v1 gnd vce  dc 0
r1  net-_r1-pad1_ net-_q1-pad1_ 1k
r2  net-_q1-pad2_ ib 1k
* u_ic1  net-_r1-pad1_ vce plot_i2
i1 gnd ib  dc 20m
q1 net-_q1-pad1_ net-_q1-pad2_ gnd 2N5401
v_u_ic1 net-_r1-pad1_ vce 0
.dc v1 -10e-00 10e-00 0.05e-00 i1 0e-03 5e-03 1e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth = 2
plot i(v_u_ic1)
.endc
.end
