* c:\users\mamat\onedrive\desktop\ajay_esim\final_project_files\device_modelling\2n5401\bjt_amplifier\bjt_amplifier.cir

.include 2N5401.lib
v1 gnd net-_r2-pad1_  dc 12
r1  net-_c1-pad1_ in 50
r2  net-_r2-pad1_ net-_c1-pad2_ 200k
c1  net-_c1-pad1_ net-_c1-pad2_ 40u
r3  net-_c1-pad2_ gnd 50k
r6  out gnd 1k
c2  gnd net-_c2-pad2_ 100u
c3  out net-_c3-pad2_ 40u
r5  net-_r2-pad1_ net-_c3-pad2_ 2k
r4  net-_c2-pad2_ gnd 1.5k
* u1  in plot_v1
* u2  out plot_v1
v2  in gnd sine(0 10m 1k 0 0)
q1 net-_c3-pad2_ net-_c1-pad2_ net-_c2-pad2_ 2N5401
.tran 10e-06 10e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth = 2
plot v(in) v(out)
.endc
.end
