* c:\users\mamat\onedrive\documents\final_project_files\device_modelling\ls5907\fet_amplifier\fet_amplifier.cir

.include LS5907.lib
c1  net-_c1-pad1_ in 1u
c6  net-_c6-pad1_ gnd 100u
v2  net-_r3-pad1_ gnd 12
r3  net-_r3-pad1_ net-_c2-pad2_ 6.8k
r4  gnd net-_c6-pad1_ 2.2k
v1  in gnd sine(0 10m 1k 0 0)
* u1  in plot_v1
* u2  out plot_v1
j1 net-_c2-pad2_ net-_c1-pad1_ net-_c6-pad1_ LS5907
c2  out net-_c2-pad2_ 0.5u
r1  out gnd 10k
r2  gnd net-_c1-pad1_ 3.3meg
r5  net-_r3-pad1_ net-_c1-pad1_ 6.8meg
.tran 10e-06 10e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth = 2
plot v(in) v(out)
.endc
.end
