* /home/fossee/updatedexamples/fet_characteristic/fet_characteristic.cir

.include LS5907.lib
j1 id net-_j1-pad2_ gnd LS5907
vds1 net-_u_id1-pad1_ gnd  dc 10
vgs1 net-_j1-pad2_ gnd  dc 4
* u_id1  net-_u_id1-pad1_ id plot_i2
v_u_id1 net-_u_id1-pad1_ id 0
.dc vds1 0e-00 15e-00 0.005e-00 vgs1 -5e-03 50e-03 5e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot i(v_u_id1)
.endc
.end
