* c:\users\mamat\onedrive\documents\final_project_files\device_modelling\pmeg2005eb\diode_char_pmeg2005eb\diode_char_pmeg2005eb.cir

.include PMEG2005EB.lib
* u1  out net-_r1-pad1_ plot_i2
d1 out in PMEG2005EB
v1 in gnd  dc 5
r1  net-_r1-pad1_ gnd 1k
v_u1 out net-_r1-pad1_ 0
.dc v1 -1e-00 1e-00 0.01e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth = 2
plot i(v_u1)
.endc
.end
