* c:\users\mamat\esim-workspace\pmeg2005eb_half_wave_rectifier\pmeg2005eb_half_wave_rectifier.cir

.include PMEG2005EB.lib
v1  in gnd sine(0 5 5 0 0)
d1 in out PMEG2005EB
r1  out gnd 1k
* u2  out plot_v1
* u1  in plot_v1
.tran 1e-03 1e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(in)
.endc
.end
