* c:\users\mamat\esim-workspace\bjt_cb_config\bjt_cb_config.cir

.include ZTX1048A.lib
v1 vcb gnd  dc 12
r1  vcb net-_q1-pad1_ 1k
r2  net-_q1-pad3_ net-_r2-pad2_ 1k
* u_ic1  net-_r2-pad2_ ie plot_i2
q1 net-_q1-pad1_ gnd net-_q1-pad3_ ZTX1048A
v2 gnd ie  dc 12
v_u_ic1 net-_r2-pad2_ ie 0
.dc v2 -1e-00 10e-00 0.02e-00 v1 0e-03 100e-03 20e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth = 2
plot i(v_u_ic1)
.endc
.end
